US07452911B2
13a 5-bromo-2-(4-chloro-phenyl)-pyridine
Under an N2 atmosphere 11 mL 2 M Na2CO3 solution and 240 mg (0.21 mmol) tetrakis-triphenylphosphane-palladium are added to a solution of 3.00 g (10.6 mmol) 5-bromo-2-iodo-pyridine and 3.37 g (21.1 mmol) 4-chlorophenyl-boric acid in 60 mL 1,4-dioxane and 15 mL MeOH and the reaction mixture is heated to 110° C. for 3 h. The mixture is evaporated down i.vac., the residue is combined with 50 mL water, 10 mL 3% NH3 solution and 150 mL EtOAc, the organic phase is separated off and dried over Na2SO4. After the desiccant and solvent have been eliminated the residue is purified by chromatography (silica gel, cyc).

reactant | Na2CO3 | 2 M, 11 mL | C(=O)([O-])[O-].[Na+].[Na+]
reactant | 5-bromo-2-iodo-pyridine | 10.6 mmol, 3.00 g | BrC=1C=CC(=NC1)I | C5H3BrIN
reactant | 4-chlorophenyl-boric acid | 21.1 mmol, 3.37 g | ClC1=CC=C(C=C1)OB(O)O | C6H6BClO3
solvent | 1,4-dioxane | 60 mL | O1CCOCC1 | C4H8O2
solvent | MeOH | 15 mL | CO | CH4O
product | 5-bromo-2-(4-chloro-phenyl)-pyridine | BrC=1C=CC(=NC1)C1=CC=C(C=C1)Cl | C11H7BrClN
